US07858560B2
4-Bromo benzoic acid (50 g, 0.25M) placed in a 500 mL round bottom flask fitted with a reflux condenser was added 150 mL of thionyl chloride and for 8 h. The excess of thionyl chloride was removed under vacuum and the white solid obtained was dissolved in 100 ml of dry CH2Cl2 and kept in an ice bath. To this ice cooled solution of bromo benzoylchloride was added drop wise 45 g of 2-amino-2-methylpropan-1-ol dissolved in another 100 mL of dry CH2Cl2 with stirring for the period of 1 h. The ice bath was removed and the reaction mixture was stirred at room temperature for over night. The precipitated white solid was filtered and washed several time with CH2Cl2 (4×100 mL). The combined CH2Cl2 was removed under rotaevoporator and the solid obtained was slowly dissolved in 150 mL of thionyl chloride and refluxed for 3 h. The excess of SOCl2 was evaporated to one-six volumes and poured in to 500 mL of dry ether cooled in ice bath and kept in the refrigerator overnight. The ether was removed and the precipitated hydrochloride was dissolved in 500 mL of cold water. The aqueous solution was carefully neutralized using 20% KOH solution on cold condition (ice bath) and the brown oily residue separated was extracted with CH2Cl2 (3×200 mL) and dried over anhydrous Na2SO4. Removal of the solvent gave 42 g (67%) of 2-(4-bromophenyl)-4,4-dimethyl-1,3-oxazoline as a yellow oil. 1H-NMR (500 MHz, CDCl3) δ ppm: 1.36 (s, 6H), 4.08 (s, 2H), 7.52 (d, 2H), 7.79 (d, 2H). Mass: 254.3 (M+).

reactant | 4-Bromo benzoic acid | 0.25M, 50 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | bromo benzoylchloride | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
reactant | 2-amino-2-methylpropan-1-ol | 45 g | NC(CO)(C)C | C4H11NO
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | thionyl chloride | 150 mL | S(=O)(Cl)Cl | Cl2OS
solvent | thionyl chloride | 150 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-(4-bromophenyl)-4,4-dimethyl-1,3-oxazoline | 42 g, 67% | BrC1=CC=C(C=C1)C=1OCC(N1)(C)C | C11H12BrNO
